US07524860B2
Cyclopropylamine (0.136 g, 2.38 mmol) was suspended in tetrahydrofuran (2.00 mL) and cooled in an ice bath. This solution was charged with 2 molar trimethylaluminum in heptane (0.300 mL). After 20 minutes the solution was charged with 7-bromo-2-(3-ethyl-ureido)-[1,2,4]triazolo[1,5-a]pyridine-5-carboxylic acid ethyl ester produced as in Example 6, (0.248 g, 0.696 mmol) and shaken. After 24 hours the reaction was dissolved in dichloromethane and washed with saturated aqueous ammonium chloride. The organic layers were dried over magnesium sulfate and concentrated to afford 7-bromo-2-(3-ethyl-ureido)-[1,2,4]triazolo[1,5-a]pyridine-5-carboxylic acid cyclopropylamide MS (ACPI+): m/z 368.2 (M+H).

reactant | Cyclopropylamine | 2.38 mmol, 0.136 g | C1(CC1)N | C3H7N
reactant | trimethylaluminum | 2 molar | C[Al](C)C
reactant | 7-bromo-2-(3-ethyl-ureido)-[1,2,4]triazolo[1,5-a]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC(=CC=2N1N=C(N2)NC(=O)NCC)Br | C12H14BrN5O3
solvent | tetrahydrofuran | 2.00 mL | O1CCCC1 | C4H8O
solvent | heptane | 0.300 mL | CCCCCCC | C7H16
solvent | dichloromethane | ClCCl | CH2Cl2
product | 7-bromo-2-(3-ethyl-ureido)-[1,2,4]triazolo[1,5-a]pyridine-5-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1=CC(=CC=2N1N=C(N2)NC(=O)NCC)Br | C13H15BrN6O2
